US04294832
27.8 g of n-butyl acrylate are added dropwise to 15.6 g of isopropylamine under ice-cooling and stirring. The mixture is further stirred at room temperature for 5 hours. Then, the reaction mixture is distilled under reduced pressure. 33 g of n-butyl 3-isopropylaminopropionate are thereby obtained as a colorless oil.

reactant | n-butyl acrylate | 27.8 g | C(C=C)(=O)OCCCC | C7H12O2
reactant | isopropylamine | 15.6 g | C(C)(C)N | C3H9N
product | n-butyl 3-isopropylaminopropionate | 33 g, Yield: 80% | C(C)(C)NCCC(=O)OCCCC | C10H21NO2
